US08957070B2
7-(Benzyloxy)-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide
To a mixture of 7-(benzyloxy)-1H-indole-2-carboxylic acid (0.80 g), 2-(tritylthio)ethylamine hydrochloride (1.07 g), 1H-1,2,3-benzotriazol-1-ol (0.49 g), triethylamine (0.50 mL) and N,N-dimethylformamide (15 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.69 g) at 0° C., and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography and the title compound (1.60 g, yield 94%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio). melting point 156-157° C.

reactant | 7-(benzyloxy)-1H-indole-2-carboxylic acid | 0.80 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=C(NC12)C(=O)O | C16H13NO3
reactant | 2-(tritylthio)ethylamine hydrochloride | 1.07 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.49 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.69 g | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.50 mL | C(C)N(CC)CC | C6H15N
product | 7-(Benzyloxy)-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 1.60 g, yield 94% | C(C1=CC=CC=C1)OC=1C=CC=C2C=C(NC12)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H32N2O2S
